Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
chills, abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male with PMH of Hepatitis C s/p treatment with 
Harvoni ending in ___ and cirrhosis presenting with sudden 
onset of f/c, myalgias, headaches, nausea and sore throat 
followed by epigastric/RUQ abdominal pain.  He reports he was in 
his usual state of health working in an industrial ___ when 
suddenly his symptoms started, reports it felt like coming down 
with the flu in 15 seconds.  He did not take his temperature but 
had shaking chills.  His co-worker took him to ___ 
___, on the way to the hospital the abdominal pain started, 
sharp, initially was epigastric then mostly RUQ, constant with 
some sharp waves of worsening pain.  At ___ he was 
afebrile, VS normal, influenza negative, CXR normal, 
Carbon-monoxide was slightly high at 3.  Platelets were low at 
36.  AST was 41, total bilirubin was 5 (0.3 direct, 4.7 
indirect).  RUQ showed borderline dilation of CBD to 6.5 mm 
increased from 4-5 mm from prior ultrasound consider MRCP and 
chronic hepatocellular disease and sequelae of portal 
hypertension.  Blood cultures were sent, he was given Ibuprofen 
600 mg and IV fluids.  Transferred to ___ for consideration of 
ERCP.   

Currently he reports ___ RUQ pain and nausea.  Sore throat 
still bothersome.  He denies any recent diarrhea but does report 
some dark stools a few weeks back. He reports some yellowing of 
his eyes, he notes this has occurred intermittently over the 
last few years usually when he drinks. He reports he does not 
take any medications but occasionally uses probiotics and takes 
a pre-workout supplement (Perform X Ion).  

ROS: as above, ten point ROS otherwise negative.  
 
Past Medical History:
Hepatitis C diagnosed over ___ years prior, s/p treatment with 
Harvoni ending in ___
Cirrhosis
Prior IV drug use
 
Social History:
___
Family History:
Mother died at ___.  Father has HTN and CAD s/p CABG. Brother 
died at ___ from bladder cancer.  
 
Physical Exam:
Admission PE:
VS: T 97.5 BP 146/82 HR 61 RR 18 97% RA
Gen: NAD, resting comfortably in bed
HEENT: EOMI, PERRLA, MMM, OP clear, mild scleral icterus
CV: RRR nl s1s2 no m/r/g
Resp: CTAB no w/r/r
Abd: soft, upper abdominal tenderness, ND +BS
Ext: no c/c/e
Skin: warm, dry no rashes
GU: no foley
Neuro: CN II-XII intact, ___ strength throughout
Psych: pleasant, normal affect

Discharge Physical Exam: 
VS: 97.5, 153/73, 65, 18, 98%RA
Gen: NAD, resting comfortably in bed, pleasant
HEENT: EOMI, PERRLA, MMM, OP clear
CV: RRR
Resp: CTA
Abd: soft, non-tender, ND +BS
Ext: no c/c/e
Skin: warm, dry no rashes
GU: no foley
Neuro: CN II-XII intact, ___ strength throughout
Psych: pleasant, normal affect
 
Pertinent Results:
___ 08:23PM   LACTATE-1.1
___ 08:15PM   GLUCOSE-95 UREA N-18 CREAT-0.8 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-107 TOTAL CO2-21* ANION GAP-16
___ 08:15PM   ALT(SGPT)-24 AST(SGOT)-38 ALK PHOS-59 TOT 
BILI-3.7* DIR BILI-0.2 INDIR BIL-3.5
___ 08:15PM   LIPASE-28
___ 08:15PM   ALBUMIN-4.2
___ 08:15PM   WBC-3.2* RBC-4.59* HGB-13.8 HCT-38.0* MCV-83 
MCH-30.1 MCHC-36.3 RDW-15.6* RDWSD-46.5*
___ 08:15PM   PLT SMR-VERY LOW PLT COUNT-39*

Imaging: 
EXAMINATION:  MRCP 
  
INDICATION:  ___ year old man with abdominal pain and elevated 
bilirubin, OSH 
RUQ US showing borderline dilation of CBD to 6.5 mm.  // 
evaluate for biliary 
obstruction 
  
TECHNIQUE:  T1- and T2-weighted multiplanar images of the 
abdomen were 
acquired in a 1.5 T magnet. 
Intravenous contrast: 8 mL Gadavist. 
Oral contrast:  1 cc of Gadavist mixed with 50 cc of water was 
administered 
for oral contrast. 
  
COMPARISON:  Abdominal ultrasound from ___ dated ___ 
  
FINDINGS:  
  
Lower Thorax: The lung bases are clear.  No pleural or 
pericardial effusion. 
  
Liver: There is hypertrophy of the left hepatic lobe.  The 
contours are 
nodular.  There are diffuse reticular markings hyperintense on 
the T2 weighted 
images.  This constellation of findings is most in keeping with 
cirrhosis.  No 
signal loss on the out of phase sequence as opposed to the in 
phase sequence 
to suggest the presence of hepatic steatosis.  No concerning 
lesions meeting 
0PTN 5A criteria for HCC.  Trace ascites. 
  
Biliary: No intra- or extra-hepatic duct dilatation.  The common 
bile duct is 
within normal limits.  The gallbladder is dilated measuring up 
to 5.6 cm in 
transverse diameter.  No cholelithiasis.  The mucosa enhances 
normally and 
there is no mural thickening; however, there are scattered areas 
of mural 
edema and pericholecystic free fluid.  These findings can be 
seen in the 
setting of chronic liver disease; however, acute cholecystitis 
cannot be fully 
excluded. 
  
Pancreas: The pancreatic parenchyma maintains normal bulk, 
intrinsic 
hyperintense T1 signal and enhancement pattern. No focal lesion 
or ductal 
abnormality is seen. 
  
Spleen: The spleen is enlarged measuring 18.3 cm.  No focal 
lesions. 
  
Adrenal Glands: Normal in size and signal characteristics.  No 
focal lesions. 
  
Kidneys: The left kidney is displaced inferiorly by the spleen.  
The kidneys 
are normal in size and signal characteristics.  The 
corticomedullary 
differentiation is well-maintained with normal excretion of 
contrast on the 
delayed phase images.  There are no concerning solid or cystic 
lesions.  No 
hydronephrosis or hydroureter.  A retroaortic renal vein is 
noted. 
  
Gastrointestinal Tract:  Scattered diverticuli are noted 
throughout the colon. 
No evidence of diverticulitis.  The GI tract is of normal 
caliber throughout. 
No mural thickening or abnormal enhancement. 
  
Lymph Nodes: There are prominent periceliac lymph nodes ; 
however, none are 
enlarged by size criteria. 
  
Vasculature: There are multiple perisplenic, paraesophageal, 
perigastric 
varices.  A splenorenal shunt is noted. 
  
Osseous and Soft Tissue Structures: The bone marrow demonstrates 
normal signal 
characteristics.  No concerning osseous lesions. 
  
IMPRESSION:  
  
1.  No biliary obstruction or choledocholithiasis. 
2.  Cirrhosis complicated by portal hypertension as evidenced by 
splenomegaly, 
multiple portosystemic varices and ascites.  No concerning 
hepatic lesions 
3.  The gallbladder is dilated and there is mild mural edema and 

pericholecystic fluid; however, there is no cholelithiasis, 
mural thickening 
or mucosal hyperenhancement. These findings can be seen in the 
setting of 
chronic liver disease; however, acute cholecystitis cannot be 
fully excluded.  
If there is ongoing clinical concern, a HIDA scan is 
recommended. 

HIDA: HISTORY:  ___ man with right upper quadrant pain 
and MRCP with 
gallbladder wall thickening and pericholecystic fluid.  Evaluate 
for 
cholecystitis. 
  
COMPARISON:  MRCP from ___. 
  
TECHNIQUE:  Following the intravenous injection of tracer, 
serial one-minute 
images of tracer uptake into the hepatobiliary system were 
obtained for 60 
minutes. 
  
FINDINGS:  Serial images over the abdomen show homogeneous 
uptake of tracer into 
the hepatic parenchyma with mild prominence of the left lobe of 
the liver. 
  
At 14 minutes, the gallbladder is visualized with tracer 
activity noted in the 
small bowel at 51 minutes. 
  
IMPRESSION:  Normal hepatobiliary scan. 

DISCHARGE LABS: 
___ 06:05AM BLOOD WBC-2.1* RBC-4.30* Hgb-12.5* Hct-35.0* 
MCV-81* MCH-29.1 MCHC-35.7 RDW-15.0 RDWSD-43.9 Plt Ct-34*
___ 06:05AM BLOOD ___ PTT-31.3 ___
___ 06:05AM BLOOD Glucose-102* UreaN-12 Creat-0.8 Na-140 
K-4.2 Cl-107 HCO3-26 AnGap-11
___ 06:05AM BLOOD ALT-19 AST-33 AlkPhos-50 TotBili-3.2* 
DirBili-0.3 IndBili-2.9
___ 06:05AM BLOOD Calcium-8.5 Phos-4.9* Mg-1.___ year old male with PMH of Hepatitis C s/p treatment with 
Harvoni ending in ___ and cirrhosis presenting with sudden 
onset of f/c, myalgias, headaches, nausea and sore throat 
followed by epigastric/RUQ abdominal pain.

#Abdominal Pain
#Indirect hyperbilirubinemia
Transferred due to concern for biliary obstruction but bilirubin 
elevation is all indirect without alk phos elevation.  OSH RUQ 
US does show borderline dilation of CBD and he has RUQ pain.  
Low suspicion for cholangitis. He reports being told in the past 
that his bilirubin goes up when he is sick. This could be due to 
advance liver disease vs Gilberts. LDH normal and H/H stable but 
haptoglobin low. Hapto likely low due to underlying liver 
disease and not likely represent hemolysis. No schistocytes on 
smear. His cultures were negative and his LFTs were improving at 
time of discharge. Mis MRCP did not show any obstruction btu 
swelling of the gallbladder. HIDA scan was normal. His abdominal 
pain resolved and was tolerating a regular diet. He was 
instructed to follow up with his PCP and hepatologist. 

#Likely viral syndrome  
His constellation of symptoms including f/c, myalgias, sore 
throat, headaches and nausea are concerning for a viral 
syndrome. Flu negative at OSH and has been afebrile while here. 
Cultures without growth and he improved and felt stable for 
discharge. 

#Hepatitis C
#Cirrhosis
#Thrombocytopenia
Most likely thrombocytopenia due to cirrhosis possibly worsened 
by recent alcohol use, no prior labs available here.  No 
evidence of decompensated liver disease. His levels were stable. 
He reports he follows with a hepatologist and will follow up 
with him following discharge. 

Greater than 30 minutes was spent in care coordination and 
counseling on the day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None. Patient was not discharged on any medications. To 
establish with new PCP. 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cirrhosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr ___, 

It was a pleasure taking care of you while you were in the 
hospital. You were admitted with abdominal pain. You were 
evaluated for any blockage that could have caused this. It is 
likely that you had a viral infection and had no further fever 
or chills. Your gallbladder was evaluated and was not infected 
or the cause. It is important for you to get a primary care 
provider as we talked about and it is important to see your 
Liver doctor as soon as possible. Your blood pressure was mildly 
elevated while you were here and may need blood pressure 
medication after you see your PCP. 
 
Followup Instructions:
___